US08426590B2
In a reaction vessel, 0.25 mol (45.0 g) of 2,3-dihydro-1,4-benzodioxine-2-carboxylic acid, tetrahydrofuran (328 ml) and 6,7-dimethoxy-2-(piperazin-1-yl)quinazolin-4-amine (0.22 mol; 63.58 g) were charged and contents were stirred at 20-25° C. for 5-10 min. To the resulting mixture dicyclohexylcarbodiimide (0.26 mol; 54.0 g) was added and stirring continued at 20-25° C. for 1.5 hr. To the resulting reaction mass charcoal was added and contents were stirred at 26-28° C. for 45 min. The contents were filtered through celite and washed with tetrahydrofuran. The solvent was distilled out at 35° C. under reduced pressure to obtain solid residue. Acetone (1000 ml) was added to the solid and contents were refluxed for 2 hr. On cooling to 25-28° C., the slurry was filtered, washed with acetone and dried at 60° C. under reduced pressure to obtain 93 g of doxazosin base (HPLC purity −99.0%).

reactant | 2,3-dihydro-1,4-benzodioxine-2-carboxylic acid | 0.25 mol, 45.0 g | O1C(COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | 6,7-dimethoxy-2-(piperazin-1-yl)quinazolin-4-amine | 0.22 mol, 63.58 g | COC=1C=C2C(=NC(=NC2=CC1OC)N1CCNCC1)N | C14H19N5O2
reactant | dicyclohexylcarbodiimide | 0.26 mol, 54.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | charcoal | C | CH4
solvent | Acetone | 1000 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 328 ml | O1CCCC1 | C4H8O
product | doxazosin | 93 g | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4COC=5C=CC=CC5O4 | C23H25N5O5
